US05310500
Optically active 1,1,1-trifluoro-2-octanol (0.5 g), dimethylformamide (0.35 g) and triethylamine (0.64 g) were dissolved in 20 ml of methylene chloride. To this solution was added in small portions a solution of 4,4'-biphenyldicarboxylic acid dichloride (1.6 g) obtained in 2) of Example 7 in 50 ml of methylene chloride under ice-cooling, and the mixture was stirred for about 20 hours. Next, 2-hydroxy-6-octyloxycarbonylnaphthalene (0.86 g) obtained in 1) was dissolved in 30 ml of methylene chloride and added in small portions to the reaction mixture. The resulting mixture was stirred for about 20 hours.

reactant | 1,1,1-trifluoro-2-octanol | 0.5 g | FC(C(CCCCCC)O)(F)F | C8H15F3O
reactant | dimethylformamide | 0.35 g | CN(C=O)C | C3H7NO
reactant | triethylamine | 0.64 g | C(C)N(CC)CC | C6H15N
reactant | 4,4'-biphenyldicarboxylic acid dichloride | 1.6 g | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=C(C=C1)C(=O)Cl | C14H8Cl2O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-hydroxy-6-octyloxycarbonylnaphthalene | 0.86 g | OC1=CC2=CC=C(C=C2C=C1)C(=O)OCCCCCCCC | C19H24O3
